US08048884B2
Preparation 14: N-{2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-2-oxo-ethyl}-N-methyl-benzenesulfonamide
Dissolve (benzenesulfonyl-methyl-amino)-acetic acid (0.150 g, 0.654 mmol) in dichloromethane (5 mL). Add 1-hydroxybenzotriazole hydrate (0.081 g, 0.595 mmol) followed by 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.114 g, 0.595 mmol). Add 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.154 g, 0.595 mmol) and stir at ambient temperature for 18 hr. Add dichloromethane and water and separate layers. Extract the aqueous layer three times with dichloromethane. Dry the combined organic layers over magnesium sulfate, filter and concentrate under reduced pressure to give residue. Purify the residue by chromatography on silica gel eluting with 50-100% ethylacetate/hexanes to give the title preparation (193 mg, 69% yield). MS (ES+) m/z: 470 (M+H)+.

reactant | (benzenesulfonyl-methyl-amino)-acetic acid | 0.654 mmol, 0.150 g | C1(=CC=CC=C1)S(=O)(=O)N(C)CC(=O)O | C9H11NO4S
reactant | 1-hydroxybenzotriazole hydrate | 0.595 mmol, 0.081 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.595 mmol, 0.114 g | Cl.CN(CCCN=C=NCC)C
reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.595 mmol, 0.154 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-{2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-2-oxo-ethyl}-N-methyl-benzenesulfonamide | 69% yield | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)C(CN(S(=O)(=O)C1=CC=CC=C1)C)=O | C23H24FN5O3S
